US08877782B2
b) (5-Methyl-3-pyridin-4-yl-isoxazol-4-yl)-methanol
To a solution of 5-methyl-3-pyridin-4-yl-isoxazole-4-carboxylic acid ethyl ester (7.06 g, 17.3 mmol) in THF (350 mL) was added at 5° C. lithiumaluminumhydride (635 mg, 16.7 mmol). After stirring for 2 h at this temperature further lithiumaluminumhydride (318 mg, 8.4 mmol) was added and stirred for 1 h at 5° C. Water (1.9 mL) was added carefully followed by aqueous sodium hydroxide (15%, 1.9 mL) and water (0.540 mL). The resulting suspension was stirred for 15 min at ambient temperature and filtered over Hyflo®. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate=50:50 to 0:100) afforded the title compound (2.15 g, 65%) as a light yellow solid. MS: m/e=191.2 [M+H]+.

reactant | 5-methyl-3-pyridin-4-yl-isoxazole-4-carboxylic acid ethyl ester | 17.3 mmol, 7.06 g | C(C)OC(=O)C=1C(=NOC1C)C1=CC=NC=C1 | C12H12N2O3
reactant | Water | 1.9 mL | O | H2O
reactant | sodium hydroxide | 1.9 mL | [OH-].[Na+]
reactant | water | 0.540 mL | O | H2O
solvent | THF | 350 mL | C1CCOC1 | C4H8O
product | (5-Methyl-3-pyridin-4-yl-isoxazol-4-yl)-methanol | 2.15 g, 65% | CC1=C(C(=NO1)C1=CC=NC=C1)CO | C10H10N2O2
